US05539099
3',5'-Di-O-methanesulfonylthymidine
A five liter, three-necked, round bottom flask was equipped with an overhead stirrer and paddle, a 500 mL dropping funnel, a Claisen adapter with thermocouple probe and a reflux condenser. Thymidine (363.3 g, 1.5 moles) and N-methylmorpholine (508.3 g, 5.02 moles) were added to the flask with acetone (2.00 L). The mixture was stirred while adding methanesulfonyl chloride (498.3 g, 4.35 moles) slowly over about one hour, with cooling to maintain 30°-35° C. during the addition. An additional 1.50 L of acetone was added to the mixture to maintain adequate stirring. After the addition was complete, the mixture was stirred for 1 hour at 30°-35° C. The reaction was then transferred in portions to water (9.66 L) being stirred in a 20 L polyethylene tank. The pH of the aqueous slurry was adjusted with 12N HCl to pH 2.5 and stirred at ambient temperature for an additional two hours. The slurry was filtered and the solid was washed with water (2.9 L) and isopropanol (1.45 L). The solid was air dried overnight to give 564.6 g (94.5%) of the title compound which assays 97.1% (by weight) purity.

reactant | Thymidine | 1.5 moles, 363.3 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | N-methylmorpholine | 5.02 moles, 508.3 g | CN1CCOCC1 | C5H11NO
reactant | methanesulfonyl chloride | 4.35 moles, 498.3 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | polyethylene | 20 L | C(C[*:2])[*:1]
reactant | HCl | 12N | Cl | ClH
solvent | water | 9.66 L | O | H2O
solvent | acetone | 1.50 L | CC(=O)C | C3H6O
solvent | acetone | 2.00 L | CC(=O)C | C3H6O
product | 3',5'-Di-O-methanesulfonylthymidine | 564.6 g, 94.5% | CS(=O)(=O)O[C@H]1C[C@@H](O[C@@H]1COS(=O)(=O)C)N1C(=O)NC(=O)C(C)=C1 | C12H18N2O9S2
